US05153226
(S)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[(3,3-dimethyl-1-oxobutyl)amino]-4-(phenylmethoxy)benzenepropanamide
To a cooled (0° C.) solution of (S)-α-amino-N-[2,6-bis(1-Methylethyl)phenyl]-4-(phenylmethoxy)benzenepropanamide (1.15 g, 2.67 mmol) and triethylamine (0.37 mL, 2.67 mmol) in THF (50 mL) was added tert-butylacetylchloride (0.39 mL, 2.80 mmol) dropwise. The resulting slurry was warmed to 25° C. and stirred (1 hour, 25° C.). The resulting slurry was diluted with ethyl acetate (200 mL). The organic layer was washed with 1.0N aqueous HCl (1×65 mL), with brine (1×65 mL), with saturated aqueous sodium bicarbonate (1×65 mL), with brine again (1×65 mL), then dried (MgSO4) and concentrated. The resulting oil was triturated with ether, and cooled. The resulting solid was collected by filtration, washed with cold ether, and dried in a vacuum oven at 40° C. to yield 1.2 g (85.1%) of the title compound as a white solid, melting point 209°-211.5° C.

reactant | (S)-α-amino-N-[2,6-bis(1-Methylethyl)phenyl]-4-(phenylmethoxy)benzenepropanamide | 2.67 mmol, 1.15 g | N[C@H](C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H34N2O2
reactant | triethylamine | 2.67 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylacetylchloride | 2.80 mmol, 0.39 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (S)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[(3,3-dimethyl-1-oxobutyl)amino]-4-(phenylmethoxy)benzenepropanamide | 1.2 g, 85.1% | CC(C)C1=C(C(=CC=C1)C(C)C)NC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(CC(C)(C)C)=O)=O | C34H44N2O3
